US09102632B2
200 mg (1.05 mM) of 5-chloro-1-ethyl-3-mercaptopyrazin-2(1H)-one, 178 mg (1 mM) of 2-chloro-N-phenylacetamide and 135.6 mg (1.05 mM) of diisopropylethylamine in 5 ml of tetrahydrofurane were stirred overnight at room temperature. Water was added and the precipitate was filtered and washed with water, to give 170 mg of 2-[(6-chloro-4-ethyl-3-oxo-3,4-dihydropyrazin-2-yl)thio]-N-phenylacetamide. Yield: 50%.

reactant | 5-chloro-1-ethyl-3-mercaptopyrazin-2(1H)-one | 1.05 mM, 200 mg | ClC=1N=C(C(N(C1)CC)=O)S | C6H7ClN2OS
reactant | 2-chloro-N-phenylacetamide | 1 mM, 178 mg | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | diisopropylethylamine | 1.05 mM, 135.6 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 2-[(6-chloro-4-ethyl-3-oxo-3,4-dihydropyrazin-2-yl)thio]-N-phenylacetamide | 170 mg, Yield: 50% | ClC1=CN(C(C(=N1)SCC(=O)NC1=CC=CC=C1)=O)CC | C14H14ClN3O2S
